US06812237B2
To a solution of N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-L-phenylalaninamide (0.6 g, 1.42 mmol) in CH2Cl2 (15 mL) is added 4-fluorophenylboronic acid (0.398 g, 2.85 mmol), cupric acetate (0.26 g, 1.4 mmol) and pyridine (0.23 mL, 2.85 mmol), and the dark blue solution is stirred overnight at room temp. The solution is then diluted with CH2Cl2 (35 mL), and washed with 1 N HCl (50 mL) and brine (50 mL), then dried (MgSO4), evaporated and chromatographed (silica, 30% EtOAc/hexane) to yield N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-Nα-(4-fluorophenyl)-L-phenylalaninamide, as a clear oil.

reactant | N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-L-phenylalaninamide | 1.42 mmol, 0.6 g | C(C=C)OC(=O)C=1C=C(COC[C@H](C#N)NC([C@@H](N)CC2=CC(=CC=C2)C)=O)C=CC1 | C24H27N3O4
reactant | 4-fluorophenylboronic acid | 2.85 mmol, 0.398 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | pyridine | 2.85 mmol, 0.23 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-Nα-(4-fluorophenyl)-L-phenylalaninamide | C(C=C)OC(=O)C=1C=C(COC[C@H](C#N)NC([C@@H](NC2=CC=C(C=C2)F)CC2=CC(=CC=C2)C)=O)C=CC1 | C30H30FN3O4
